US05008259
7-[2-(2-Aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(2,3-dihydroxyquinoline-8-carboxamidomethyl)ceph-3-em-4-carboxylic acid
To a solution of 3-hydroxy-8-carboxy-2(1H)-quinolinone (160 mg) in chloroform (15 ml) was added triethylamine (0.62 ml) and speedily trimethylsilyl chloride (0.57 ml). The mixture was heated to 60° C. for 4 hours, cooled to 0° C. and treated with triethylamine (0.114 ml) and thionyl chloride (0.06 ml), whereupon the resultant solution was stirred for 2 hours at 0° C. and at room temperature for 30 minutes. This solution was added to 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]ceph-3-em-4-carboxylic acid (360 mg) in methanol (30 ml) containing triethylamine (0.42 ml) at 0° C. The reaction mixture was stirred for 30 minutes at 0° C., stirred for 30 minutes at room temperature, diluted with water, acidified to pH2, concentrated, and purified by chromatography (HP20SS resin eluting with methanol/water/acetic acid) to give the title compound (85 mg); NMR (DMSO-d6 /CD3COOD/CF3COOD) 1.50(s,6H); 3.55(m,2H); 4.40(m,2H); 5.1(d,1H); 5.75(d,1H); 7.00-7.25(,3H); 7.6(d,1H); 7.80(d,1H).

reactant | 3-hydroxy-8-carboxy-2(1H)-quinolinone | 160 mg | OC=1C(NC2=C(C=CC=C2C1)C(=O)O)=O | C10H7NO4
reactant | trimethylsilyl chloride | 0.57 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | thionyl chloride | 0.06 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]ceph-3-em-4-carboxylic acid | 360 mg | NCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(=N/OC(C)(C)C(=O)O)\C=2N=C(SC2)N)=O)=O | C17H20N6O7S2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.114 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(2-Aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(2,3-dihydroxyquinoline-8-carboxamidomethyl)ceph-3-em-4-carboxylic acid | 85 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CNC(=O)C=2C=CC=C3C=C(C(=NC23)O)O)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C27H25N7O10S2
